US09062044B2
Step B: Biphenyl-2-yl-(3,8-diaza-bicyclo[4.2.0]oct-8-yl)-methanone.
To a solution of 8-(biphenyl-2-carbonyl)-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester in dioxane (8.0 mL) was added trifluoro acetic acid (3 mL), the reaction mixture was stirred for 16 h at room temperature. The solvent and the excess of trifluoro acetic acid were removed under reduced pressure. The resulting trifluoro acetic acid salt of the title compound (388.0 mg was used crude without further purification. MS (ESI) mass calcd. for C19H20N2O, 292.37; m/z found, 293.2 [M+H]+.

reactant | 8-(biphenyl-2-carbonyl)-3,8-diaza-bicyclo[4.2.0]octane-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2N(CC2CC1)C(=O)C=1C(=CC=CC1)C1=CC=CC=C1 | C24H28N2O3
reactant | trifluoro acetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dioxane | 8.0 mL | O1CCOCC1 | C4H8O2
product | Biphenyl-2-yl-(3,8-diaza-bicyclo[4.2.0]oct-8-yl)-methanone | C1(=C(C=CC=C1)C(=O)N1CC2CCNCC12)C1=CC=CC=C1 | C19H20N2O
